US07816387B2
Methyl 3-[(methylsulfonyl)amino]-5-nitrobenzoic acid
A mixture of methyl 3-amino-5-nitrobenzoate 24.7 g (126 mmol), pyridine 51 mL (630 mmol), methanesulfonyl chloride 12 mL (151 mmol) and chloroform (250 mL) was stirred at 40° C. for 5 hours. The solvent was evaporated and to the residue was added 1N hydrochloric acid and the mixture was extracted with ethyl acetate 500 mL. The organic layer was washed with 1N hydrochloric acid and 5% aqueous sodium chloride solution and dried on magnesium sulfate. The solvent was evaporated and the residue was recrystallized from a mixed solvent of ethyl acetate and n-hexane to give 32.1 g (117 mmol) of the title compound (yield: 93%).

reactant | methyl 3-amino-5-nitrobenzoate | 126 mmol, 24.7 g | NC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H8N2O4
reactant | pyridine | 630 mmol, 51 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 151 mmol, 12 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-[(methylsulfonyl)amino]-5-nitrobenzoic acid | 117 mmol, 32.1 g, yield: 93% | CC1=C(C(=O)O)C=C(C=C1NS(=O)(=O)C)[N+](=O)[O-] | C9H10N2O6S
